US07423037B2
(5-Fluoro-2-methoxy-phenyl)-methanol
To a solution of 2-methoxy-5-fluorobenzaldehyde (11.093 g, 1 eq, available from Aldrich Chemical Company) in methanol at −10° C. under nitrogen atmosphere is added NaBH4 (7.515 g, 2.7 equiv.) portionwise. The solution is allowed to warm to room temperature and after 30 minutes the reaction solvent is removed under reduced pressure and replaced with dichloromethane. This solution is poured onto ice water and further extracted with dichloromethane. The organic fractions are collected and dried (MgSO4) and the solvent removed under reduced pressure to give the title compound as an oil (9.794 g, 87%). MW 156.16; C8H9FO2; 1H NMR (CDCl3): 2.58 (m, 1H), 3.81 (s, 3H), 4.63 (d, 2H, 6.3 Hz), 6.78 (dd, 1H, 8.9 Hz and 4.3 Hz), 6.94 (td, 1H, 8.5 Hz and 3.1 Hz), 7.04 (dd, 1H, 8.7 Hz and 3.1 Hz).

reactant | 2-methoxy-5-fluorobenzaldehyde | 11.093 g, 1 eq | COC1=C(C=O)C=C(C=C1)F | C8H7FO2
reactant | NaBH4 | 7.515 g, 2.7 equiv. | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | (5-Fluoro-2-methoxy-phenyl)-methanol | 9.794 g, 87% | FC=1C=CC(=C(C1)CO)OC | C8H9FO2
